US07893056B2
To a solution of [(2R)-3-(2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (2.3947 g, 4.058 mmol) in MeOH (40 mL) was added 20% Pd(OH)2/C (50% water, 240 mg). The mixture was hydrogenated under balloon pressure for 2.5 h, and then filtered through a 0.2 μm membrane. The solution was concentrated in vacuo, and the residue was purified by Gilson RPLC (10% MeCN in water to 65% MeCN in water; 8 min gradient). The desired fractions were combined, and the MeCN was removed in vacuo. The resulting mixture was extracted with EtOAc (2×150 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was then crystallized from EtOAc-hexanes to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (1.2759 g, 63%) as a pale pink solid. LCMS: (M+H)+: 500.1.

reactant | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 4.058 mmol, 2.3947 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1C[C@@H]2COCCN2CC1 | C28H37ClFN7O4
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd(OH)2/C | 240 mg | [OH-].[OH-].[Pd+2]
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 1.2759 g, 63% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N1C[C@@H]2COCCN2CC1 | C21H31ClFN7O4
